US06982348B2
To a solution of methyl 3-(neopentyloxy)benzoate (4.51 g, 20.3 mmol) in tetrahydrofuran (100 ml) was added lithium aluminum hydride (1.93 g, 50.75 mmol) by small portions under ice-cooling, and the mixture was stirred at room temperature for 2 hrs. To the mixture were successively added slowly water (2 ml), 15% aqueous sodium hydroxide solution (2 ml) and water (6 ml) under ice-cooling. The obtained solid was filtered with celite, washed thoroughly with ethyl acetate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to give 3-(neopentyloxy)benzyl alcohol (3.81 g, 97%) as a colorless transparent oil.

reactant | methyl 3-(neopentyloxy)benzoate | 20.3 mmol, 4.51 g | C(C(C)(C)C)OC=1C=C(C(=O)OC)C=CC1 | C13H18O3
reactant | lithium aluminum hydride | 50.75 mmol, 1.93 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2 ml | O | H2O
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | water | 6 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(neopentyloxy)benzyl alcohol | 3.81 g, 97% | C(C(C)(C)C)OC=1C=C(CO)C=CC1 | C12H18O2
